### ISSUE TITLE
Definition of subset

### ISSUE THREAD

**Issue by djvelleman** [leanprover-community/mathlib4#738]
The definition of subset in Mathlib.Init.Set.lean is `∀ {a}, a ∈ s₁ → a ∈ s₂`.  But the corresponding definition in mathlib3 was `∀ {{a}}, a ∈ s₁ → a ∈ s₂`.  Floris van Doorn suggested to me that the definition should be changed to use `{{a}}` as it did before.

Here is an example of a problem caused by the new definition.  The following proof doesn't work:
```
example (A B : Set Nat) (h1 : A ⊆ C) (h2 : A = B) : B ⊆ C := by
  have h3 : B ⊆ C := h2 ▸ h1
  exact h3
```
The `exact h3` line generates the error
```
type mismatch
  h3
has type
  ?m.645 ∈ B → ?m.645 ∈ C : Prop
but is expected to have type
  B ⊆ C : Prop
```
The cause of the problem is the implicit argument `{a}` in the definition of subset.
